US05025025
A solution of 1.385 g of ethyl 3-[3-(3-pyridyl)-propyl]-7-(2-tetrahydropyranyloxy)-hept-2-enoate in 30 mL ethyl acetate is hydrogenated in a Parr apparatus at 3 atmospheres pressure and room temperature in the presence of 5% Pd/C catalyst for 13 hours to yield ethyl 3-[3-(3-pyridyl)-propyl]-7-(2-tetrahydropyranyloxy)-heptanoate; NMR (CDCl3): delta 2.2 (ddd,2H).

reactant | ethyl 3-[3-(3-pyridyl)-propyl]-7-(2-tetrahydropyranyloxy)-hept-2-enoate | 1.385 g | N1=CC(=CC=C1)CCCC(=CC(=O)OCC)CCCCOC1OCCCC1 | C22H33NO4
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | ethyl 3-[3-(3-pyridyl)-propyl]-7-(2-tetrahydropyranyloxy)-heptanoate | N1=CC(=CC=C1)CCCC(CC(=O)OCC)CCCCOC1OCCCC1 | C22H35NO4
